US07666878B2
BEMP (182 μL, 0.63 mmol) is added to a stirring solution of (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester (80 mg, 0.39 mmol) in DMF (1.2 ml). After 30 minutes, a solution of toluene-4-sulfonic acid furan-3-ylmethyl ester in THF (1.4 ml, 0.45 mmol) is added. After 18 hours, the reaction is partitioned between water and ether. The organic layer is washed with brine then reduced in vacuo. The residue is purified by flash column chromatography (3:1 iso-hexane/EtOAc elution) to furnish (1-furan-3-ylmethyl-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester; MH+=285.

reactant | BEMP | 0.63 mmol, 182 μL | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
reactant | (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester | 0.39 mmol, 80 mg | COC(CC1=C(NC2=NC=CC=C21)C)=O | C11H12N2O2
reactant | toluene-4-sulfonic acid furan-3-ylmethyl ester | O1C=C(C=C1)COS(=O)(=O)C1=CC=C(C=C1)C | C12H12O4S
reactant | THF | 0.45 mmol, 1.4 ml | C1CCOC1 | C4H8O
solvent | DMF | 1.2 ml | CN(C)C=O | C3H7NO
product | (1-furan-3-ylmethyl-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester | COC(CC1=C(N(C2=NC=CC=C21)CC2=COC=C2)C)=O | C16H16N2O3
